US05728829
3-(Formylamino)benzoic acid
Acetic anhydride (76 ml) was added to 98% formic acid (130 ml) and the mixture stirred at r.t. 30 min, then 3-aminobenzoic acid (15 g, 109.5 mmol) added. The mixture was stirred at r.t. for 1 h, then water (1.3 L) added and stirring continued overnight. The resultant white precipitate was collected, washed with water and dried in vacuo over P2O5 (15.4 g, 85%).

reactant | Acetic anhydride | 76 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 130 ml | C(=O)O | CH2O2
reactant | 3-aminobenzoic acid | 109.5 mmol, 15 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
solvent | water | 1.3 L | O | H2O
product | 3-(Formylamino)benzoic acid | C(=O)NC=1C=C(C(=O)O)C=CC1 | C8H7NO3
